US08541457B2
Synthesis of N-Benzyl-4-methyl-2-(5-phenylpentanamido)thiazole-5-carboxamide
To a cooled mixture of 2-amino-4-methylthiazole-5-carboxylic acid benzylamide (0.10 g, 0.40 mmol), pyridine (0.096 g, 1.21 mmol), and dimethylaminopyridine (0.010 mg) in anhydrous tetrahydrofuran (5 mL) was added 5-phenylpentanoyl chloride (0.16 g, 0.81 mmol) in anhydrous dichloromethane (1 mL) dropwise. The reaction mixture was stirred at ambient temperature for 2 hours, then diluted with dichloromethane (10 mL) and washed with saturated sodium bicarbonate solution (2×5 mL), 1 N hydrochloric acid (5 mL), and brine (5 mL). The organic phase was dried over anhydrous sodium sulfate, filtered, and the filtrate was concentrate in vacuo. The residue was purified by column chromatography over silica gel, eluting with ethyl acetate/hexanes (1/1) to afford the title compound as a clear oil (0.16 g, 97%) %); 1H NMR (CDCl3, 300 MHz) δ 11.19 (s, br, 1H), 7.33-7.09 (m, 10H), 6.40 (t, J=4.8 Hz, 1H), 4.58 (d, J=5.8 Hz, 2H), 2.60-2.39 (m, 7H), 1.74-1.56 (m, 4H); MS (ES+) m/z 408.6 (M+1).

reactant | 2-amino-4-methylthiazole-5-carboxylic acid benzylamide | 0.40 mmol, 0.10 g | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N)C | C12H13N3OS
reactant | pyridine | 1.21 mmol, 0.096 g | N1=CC=CC=C1 | C5H5N
reactant | 5-phenylpentanoyl chloride | 0.81 mmol, 0.16 g | C1(=CC=CC=C1)CCCCC(=O)Cl | C11H13ClO
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | dimethylaminopyridine | 0.010 mg | CN(C)C1=NC=CC=C1 | C7H10N2
product | N-Benzyl-4-methyl-2-(5-phenylpentanamido)thiazole-5-carboxamide | 0.16 g, 97% | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(CCCCC1=CC=CC=C1)=O)C | C23H25N3O2S
